US08445684B2
3-[3-[2-(Benzyloxy)ethyl]phenyl]-5-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]pyridine
3-[[1-(tert-Butoxycarbonyl)-2(S)-azetidinyl]methoxy]-5-(trimethylstannyl)pyridine (619 mg, 1.45 mmol), 1-[2-(benzyloxy)ethyl]-3-iodobenzene (490 mg, 1.45 mmol), and anhydrous DMF (5.0 mL) were placed in a 25 mL round-bottom flask with magnetic stirrer. To this mixture were rapidly added CsF (441 mg, 2.90 mmol, 2.0 equiv.), CuI (27.5 mg, 0.14 mmol, 0.10 equiv.), and Pd(PPh3)4 (84 mg, 0.07 mmol, 0.05 equiv.). The flask was fitted with a three-way stopcock with nitrogen balloon, and the atmosphere was exchanged three times. The reaction mixture was heated at 50° C. for 5 h. TLC analysis of the crude reaction mixture indicated that the aryl iodide was absent. After evaporation of the solvent in vacuo, the residue was chromatographed on silica gel with EtOAc/petroleum ether/Et3N 2:4:0.05 to give the title compound (400 mg, 58%) as a colorless oil. LC-MS (ESI) m/z 475 (M+H+).

reactant | 3-[[1-(tert-Butoxycarbonyl)-2(S)-azetidinyl]methoxy]-5-(trimethylstannyl)pyridine | 1.45 mmol, 619 mg | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COC=1C=NC=C(C1)[Sn](C)(C)C
reactant | 1-[2-(benzyloxy)ethyl]-3-iodobenzene | 1.45 mmol, 490 mg | C(C1=CC=CC=C1)OCCC1=CC(=CC=C1)I | C15H15IO
reactant | CsF | 2.90 mmol, 441 mg, 2.0 equiv. | [F-].[Cs+]
catalyst | CuI | 0.14 mmol, 27.5 mg, 0.10 equiv. | [Cu]I
catalyst | Pd(PPh3)4 | 0.07 mmol, 84 mg, 0.05 equiv. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | 3-[3-[2-(Benzyloxy)ethyl]phenyl]-5-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]pyridine | 400 mg, 58% | C(C1=CC=CC=C1)OCCC=1C=C(C=CC1)C=1C=NC=C(C1)OC[C@H]1N(CC1)C(=O)OC(C)(C)C | C29H34N2O4
